US05153192
Step A: 3-(2,5,5-Trimethyl-1,3-dioxane-2-yl)-thiophene-2-sulfonamide
To a solution of 3-(2,5,5-Trimethyl-1,3-dioxane-2-yl)thiophene (2.5 g, 11.7 mmol) in hexane (30 mL) cooled to 0° C. was added via syringe n-butyllithium in hexane (2.5M, 10.3 mL, 25.7 mmol) over 5 min. The mixture was stirred at 0° C. for 20 min, the ice bath was removed and the stirring was continued for 30 min. At this time a white precipitate formed. The mixture was cooled to -60° C. and THF (20 mL) was added. Sulfur dioxide was then passed through the surface of the mixture for 30 min. The mixture was warmed to ambient temperature and stirred for an additional 15 min. The volatiles were evaporated and to the residue was added water (50 mL) and sodium acetate trihydrate (9.55 g, 70.2 mmol). The solution was cooled on an ice bath and hydroxylamine-O-sulfonic acid (4.62 g, 40.9 mmol) was added. The mixture was stirred at ambient temperature for 1 h, extracted with ethylacetate (3×100 mL) and the combined extracts were washed with a sodium bicarbonate solution, brine and dried over molecular sieves. Evaporation to dryness gave a viscous liquid (4.93 g), which was chromatographed on silica eluting with 33% ethylacetate-hexane, to give a solid (2.47 g, 72%): mp 200°-202° C.

reactant | 3-(2,5,5-Trimethyl-1,3-dioxane-2-yl)thiophene | 11.7 mmol, 2.5 g | CC1(OCC(CO1)(C)C)C1=CSC=C1 | C11H16O2S
reactant | n-butyllithium | C(CCC)[Li]
reactant | Sulfur dioxide | S(=O)=O | O2S
reactant | sodium acetate trihydrate | 70.2 mmol, 9.55 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydroxylamine-O-sulfonic acid | 40.9 mmol, 4.62 g | NOS(=O)(=O)O | H3NO4S
solvent | hexane | 30 mL | CCCCCC | C6H14
solvent | hexane | 25.7 mmol, 2.5M, 10.3 mL | CCCCCC | C6H14
solvent | water | 50 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-(2,5,5-Trimethyl-1,3-dioxane-2-yl)-thiophene-2-sulfonamide | 4.93 g | CC1(OCC(CO1)(C)C)C1=C(SC=C1)S(=O)(=O)N | C11H17NO4S2
